US07632850B2
5.2. (3-chloro-4′-fluoro-1,1′-biphenyl-4-yl)methanol
A solution of 3.1 g (12.4 mmol) of 3-chloro-4′-fluoro-1,1′-biphenyl-4-carboxylic acid, prepared in step 5.1., in 50 ml of tetrahydrofuran is admixed dropwise at ambient temperature with 9.3 ml (18.56 mmol) of a solution (2M) of borane-dimethyl sulphide complex in tetrahydrofuran. Stirring is continued at ambient temperature for 18 hours.

reactant | 3-chloro-4′-fluoro-1,1′-biphenyl-4-carboxylic acid | 12.4 mmol, 3.1 g | ClC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)F | C13H8ClFO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (3-chloro-4′-fluoro-1,1′-biphenyl-4-yl)methanol | ClC=1C=C(C=CC1CO)C1=CC=C(C=C1)F | C13H10ClFO
